US05696117
3,4-Dihydro-2-(2-hydroxyethyl)-4-(2-naphthylmethyl)-3-oxo-2H-1,4-benzoxazin
Prepared from 2-(2-tert-butyldimethylsiloxyethyl)-3,4-dihydro-3-oxo-2H-1,4-benzoxazine by Methods F and G, alkylating with 2-chloromethyl naphthalene, in 81% overall yield. the crude product was crystallized from ether/hexane to afford a white solid, mp 81°-87° C.; IR (KBr) 3459, 2940, 1665, 1500, 1403, 1277, 1242, 1066, 746 cm-1 ; 1H NMR (CDCl3) δ2.23-2.40 (m, 3H), 3.95 (t, J=5.4 Hz, 2H), 4.90 (dd, J=7.6, 5.6 Hz, 1H), 5.32 (ABq, JAB =16.1 Hz, 2H), 6.87-7.03 (m, 4H), 7.38 (d, J=8.5 Hz, 1H), 7.43-7.48 (m, 2H), 7.67 (s, 1H), 7.75-7.84 (m, 3H); MH+ at m/z=334; Anal. Calc'd for C21H19NO3 : C, 75.66; H, 5.74; N, 4.20. Found: C, 75.65; H, 5.71; N, 4.02.

reactant | 2-(2-tert-butyldimethylsiloxyethyl)-3,4-dihydro-3-oxo-2H-1,4-benzoxazine | O([Si](C)(C)C(C)(C)C)CCC1OC2=C(NC1=O)C=CC=C2 | C16H25NO3Si
reactant | 2-chloromethyl naphthalene | ClCC1=CC2=CC=CC=C2C=C1 | C11H9Cl
reactant | KBr | [K+].[Br-]
product | 3,4-Dihydro-2-(2-hydroxyethyl)-4-(2-naphthylmethyl)-3-oxo-2H-1,4-benzoxazin | OCCC1OC2=C(N(C1=O)CC1=CC3=CC=CC=C3C=C1)C=CC=C2 | C21H19NO3
